US07691843B2
3,5-Dibromo-4-methoxybenzoic acid methyl ester was prepared from 3,5-dibromo-4-hydroxybenzoic acid methyl ester by following Method C using methyl iodide as an alkylating agent in quantitative yield. The product was used without further purification.

reactant | 3,5-dibromo-4-hydroxybenzoic acid methyl ester | COC(C1=CC(=C(C(=C1)Br)O)Br)=O | C8H6Br2O3
reactant | methyl iodide | CI | CH3I
product | 3,5-Dibromo-4-methoxybenzoic acid methyl ester | quantitative yield | COC(C1=CC(=C(C(=C1)Br)OC)Br)=O | C9H8Br2O3
